US06756378B2
To a stirred solution of methyl 4-[1-(tert-butoxycarbonyl)-2-pyrrolidinylmethylamino]benzoate (2.17 g, 6.490 mmol) in CH2Cl2 (44 mL) was added TFA (8.7 mL) at 0° C., and the resulting mixture was stirred overnight at room temp. The solvent was removed under a reduced pressure and the residue was treated with 1N NaOH. The mixture was extracted with CH2Cl2. The extract was washed with brine, dried over Na2SO4, and the solvent was concentrated under a reduced pressure to afford 1.34 g (88%) methyl 4-(2-pyrrolidinylmethylamino)benzoate as a brown oil, which is used to the subsequent reaction without further purification.

reactant | methyl 4-[1-(tert-butoxycarbonyl)-2-pyrrolidinylmethylamino]benzoate | 6.490 mmol, 2.17 g | C(C)(C)(C)OC(=O)N1C(CCC1)CNC1=CC=C(C(=O)OC)C=C1 | C18H26N2O4
reactant | TFA | 8.7 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 44 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-(2-pyrrolidinylmethylamino)benzoate | 1.34 g, 88% | N1C(CCC1)CNC1=CC=C(C(=O)OC)C=C1 | C13H18N2O2
